US07038038B2
One Pot Synthesis of 5-azacytidine
A mixture of 5-azacytosine, HMDS, and TMSCl in acetonitrile is heated to reflux for 20 hours under an inert atmosphere. TMS-triflate and 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose are then added directly to the silylated 5-azacytosine in acetonitrile. The addition is performed at ambient temperature and under an inert atmosphere. The reaction mixture is maintained under stirring for 20 hours, then the acetonitrile is removed under vacuum. The solids are then dissolved in dichloromethane, and the mixture is poured over a pre-cooled (0–5° C.) sodium bicarbonate solution (10%). The resulting mixture is extracted with dichloromethane. The combined organic extract is washed with cooled (0–5° C.) 10% sodium bicarbonate and brine, then dried over magnesium sulfate, filtered, and the filtrate concentrated in vacuum to dryness. The off-white foam is dissolved in methanol and treated with a solution of 25% sodium methoxide in methanol. The suspension is stirred at ambient temperature for 15 hours, then the solid is filtered off, washed with methanol and anhydrous ether, then dried in vacuum. The crude 5-azacytidine is further purified from DMSO and methanol (for details see Example 4).

reactant | 5-azacytosine | N1C(=O)N=C(N)N=C1 | C3H4N4O
reactant | HMDS | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | TMSCl | C[Si](C)(C)Cl | C3H9ClSi
reactant | TMS-triflate | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-azacytidine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)N=C1 | C8H12N4O5
